US07041416B2
803 parts of 1-methoxy-2-acetoxypropane were charged in a reaction vessel and heated under a nitrogen flow so that the internal temperature of the vessel was 70° C. Then a solution in which 54.0 parts of methacrylic acid, 135.6 parts of allyl methacrylate, 90.4 parts of cyclohexyl methacrylate (composition ratio of these methacrylic acid and esters thereof was 28:48:24 in molar ratio), 4.53 parts of dodecylmercaptane and 11.1 parts of V-65 (2,2′-azobis-(2,4′-dimethylvaleronitrile), manufactured by Wako Pure Chemical Co.) were dissolved in 803 parts of 1-methoxy-2-acetoxypropane was dropwise added into the vessel over a period of 2.5 hours. The mixture was agitated further for 2 hours under heating at 70° C. to obtain a methacrylic acid/allyl methacrylate/cyclohexyl methacrylate terpolymer (terpolymer 2). The weight-average molecular weight of the terpolymer was 36,000 (converted as polystyrene).

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | allyl methacrylate | C(C(=C)C)(=O)OCC=C | C7H10O2
reactant | cyclohexyl methacrylate | C(C(=C)C)(=O)OC1CCCCC1 | C10H16O2
reactant | 2,2′-azobis-(2,4′-dimethylvaleronitrile) | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
solvent | 1-methoxy-2-acetoxypropane | COCC(C)OC(C)=O | C6H12O3
product | methacrylic acid allyl methacrylate cyclohexyl methacrylate | C(C(=C)C)(=O)O.C(C(=C)C)(=O)OCC=C.C(C(=C)C)(=O)OC1CCCCC1 | InChI=1S/C10H16O2.C7H10O2.C4H6O2/c1-8(2)10(11)12-9-6-4-3-5-7-9;1-4-5-9-7(8)6(2)3;1-3(2)4(5)6/h9H,1,3-7H2,2H3;4H,1-2,5H2,3H3;1H2,2H3,(H,5,6)
